US04324910
1-(2,2,2-trichloro-1-hydroxyethyl)-3-[2-(2,2,2-trichloro-1-hydroxyethoxy)-propyl]urea
59 g. (0.5 mole) of monoisopropanol urea was heated to 80° C.; 149.0 g (1.01 moles) of chloral was added dropwise thereto between 80°-90° C. with stirring. After the addition, the reaction mixture was stirred and heated between 80-90° C. for an additional hour. On cooling a clear viscous liquid product was obtained that weighted 205 g.

reactant | monoisopropanol urea | 0.5 mole | NC(=O)N.C(C)(C)O
reactant | chloral | 1.01 moles, 149.0 g | O=CC(Cl)(Cl)Cl | C2HCl3O
product | 1-(2,2,2-trichloro-1-hydroxyethyl)-3-[2-(2,2,2-trichloro-1-hydroxyethoxy)-propyl]urea | ClC(C(O)NC(=O)NCC(C)OC(C(Cl)(Cl)Cl)O)(Cl)Cl | C8H12Cl6N2O4
